US06930120B2
2-Methyl-2-phenoxy-3-thiophen-2-yl-propionic acid
To a solution of triethylsilane (56.4 g, 77.4 mL, 485 mmol) in 100 mL of CH2Cl2 at −20° C., boron trifluoride diethyl etherate (68.8 g, 61.5 mL, 485 mmol) was added. A solution of 3-hydroxy-2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid (45.0 g, 162 mmol) in CH2Cl2 (600 mL) was then added dropwise to the BF3 solution over 1 h, keeping the temperature at −15° C. The reaction was stirred at 0° C. for 2 h. The reaction was quenched with 1 N NaOH (approx. 360 mL) diluted with 180 mL of water and the pH was adjusted to pH=4.0 using 1 N HCl and 1 N NaOH. The organic layer was separated and the aqueous layer was further extracted with CH2Cl2 (2×300 mL). The combined organic layers were then washed with 0.1 N HCl (300 mL) and water (2×300 mL). Xylene (150 mL) and NaCl were added and the organics were concentrated to dryness to yield 40.0 g of crude product. The product was used in the next step without further purification: 1H NMR (400 MHz, CDCl3) δ 6.86-7.29 (m, 8H), 3.53 (d, 2H), 3.37 (d, 2H), 1.44 (s, 3H); MS (EI) 263.1 (M+H)+.

reactant | triethylsilane | 485 mmol, 77.4 mL, 56.4 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 485 mmol, 61.5 mL, 68.8 g | B(F)(F)F.CCOCC
reactant | 3-hydroxy-2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid | 162 mmol, 45.0 g | OC(C(C(=O)O)(OC1=CC=CC=C1)C)C=1SC=CC1 | C14H14O4S
reactant | BF3 | B(F)(F)F | BF3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-phenoxy-3-thiophen-2-yl-propionic acid | 40.0 g | CC(C(=O)O)(CC=1SC=CC1)OC1=CC=CC=C1 | C14H14O3S
